US05716971
To a solution of 2-bromo-3-(1,3-dioxolan-2-yl)pyridine (3.50 g) in THF (50 ml) was added, at -78° C. under argon atmosphere, a 1.6M n-butyl lithium hexane solution (10.5 ml), which was stirred for 20 minutes. This reaction mixture was added, at the same temperature under argon atmosphere, to a solution of methoxymethyl 2-methoxymethoxy-5-methylbenzoate (3.66 g) in THF (50 ml). The mixture was stirred for 40 minutes, then for further one hour while warming up to room temperature. The reaction mixture was poured into a saturated aqueous saline solution, followed by extraction with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give 3-(1,3-dioxolan-2-yl)-2-(2-methoxymethoxy-5-methylbenzoyl)pyridine (2.06 g) (Compound E-14). The physical properties and spectrum data are shown in Table 16 and Table 19.

reactant | 2-bromo-3-(1,3-dioxolan-2-yl)pyridine | 3.50 g | BrC1=NC=CC=C1C1OCCO1 | C8H8BrNO2
reactant | n-butyl lithium hexane | 1.6M, 10.5 ml | CCCCCC.C(CCC)[Li]
reactant | methoxymethyl 2-methoxymethoxy-5-methylbenzoate | 3.66 g | COCOC1=C(C(=O)OCOC)C=C(C=C1)C | C12H16O5
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(1,3-dioxolan-2-yl)-2-(2-methoxymethoxy-5-methylbenzoyl)pyridine | 2.06 g | O1C(OCC1)C=1C(=NC=CC1)C(C1=C(C=CC(=C1)C)OCOC)=O | C18H19NO5
